US08466186B2
(b) 3-(5-Chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)-4-trifluoromethyl-benzonitrile
The sub-title compound was prepared in analogy to Example 76 using 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (998 mg, 3.24 mmol), 3-isothiocyanato-4-(trifluoromethyl)benzonitrile (740 mg, 3.24 mmol), DIC (409 mg, 3.24 mmol) and DMF (7 mL).

reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 3.24 mmol, 998 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | 3-isothiocyanato-4-(trifluoromethyl)benzonitrile | 3.24 mmol, 740 mg | N(=C=S)C=1C=C(C#N)C=CC1C(F)(F)F | C9H3F3N2S
reactant | DIC | 3.24 mmol, 409 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-(5-Chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)-4-trifluoromethyl-benzonitrile | ClC1=CC2=C(N(C(=N2)NC=2C=C(C#N)C=CC2C(F)(F)F)C)C=C1N1CCC(CC1)C(F)(F)F | C22H18ClF6N5
